US07355052B2
Stage 2: 1-(3-aminopropyl)-2-({4-[(methylamino)carbonyl]phenyl}amino)-N,N-bis(3-methylbutyl)-1H-benzimidazole-6-carboxamide dihydrochloride
A solution of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (EDC) (18 mg, 1.1 eq) in chloroform (1 ml) and a solution of 1-hydroxybenzotriazole (HOBt) (13 mg, 1.1 eq) in tetrahydrofuran (1 ml) are successively added to 4-[(6-{[bis(3-methylbutyl)amino]carbonyl}-1-{3-[(tert-butoxycarbonyl)amino]propyl}-1H-benzimidazol-2-yl)amino]benzoic acid (50 mg, 1 eq) in anhydrous tetrahydrofuran (1 ml). The mixture is stirred for 1 hour at a temperature of approximately 20° C. then the methylamine is added (2M in THF; 0.86 ml, 2 eq). After stirring for 17 hours at a temperature of approximately 20° C., the mixture is diluted with dichloromethane (3 ml) followed by the addition of aminomethylpolystyrene resin (2 eq), TBD-methyl polystyrene resin (2 eq) and methylisothiocyanate-polystyrene resin (4 eq). After stirring for 6 hours at approximately 20° C., the mixture is filtered and the filtrate is concentrated under reduced pressure at 40° C. The residue obtained is dissolved in dichloromethane (3 ml) and washed with a saturated aqueous solution of sodium hydrogen carbonate. The organic phase is dried over sodium sulphate and concentrated at a temperature of approximately 40° C. The residue obtained is dissolved in ethyl acetate (0.5 ml) and a solution of hydrochloric acid (4N in dioxane, 2 ml) is added. After stirring for 1 hour a temperature of approximately 20° C., the precipitate obtained is filtered and dried in order to produce the expected compound (29 mg; 60% yield).

reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 18 mg, 1.1 eq | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 13 mg, 1.1 eq | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 4-[(6-{[bis(3-methylbutyl)amino]carbonyl}-1-{3-[(tert-butoxycarbonyl)amino]propyl}-1H-benzimidazol-2-yl)amino]benzoic acid | 50 mg, 1 eq | CC(CCN(C(=O)C=1C=CC2=C(N(C(=N2)NC2=CC=C(C(=O)O)C=C2)CCCNC(=O)OC(C)(C)C)C1)CCC(C)C)C | C33H47N5O5
reactant | methylamine | CN | CH5N
reactant | hydrochloric acid | 4N, 2 ml | Cl | ClH
solvent | chloroform | 1 ml | C(Cl)(Cl)Cl | CHCl3
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | THF | C1CCOC1 | C4H8O
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 0.5 ml | C(C)(=O)OCC | C4H8O2
product | 1-(3-aminopropyl)-2-({4-[(methylamino)carbonyl]phenyl}amino)-N,N-bis(3-methylbutyl)-1H-benzimidazole-6-carboxamide dihydrochloride | 29 mg, 60% yield | Cl.Cl.NCCCN1C(=NC2=C1C=C(C=C2)C(=O)N(CCC(C)C)CCC(C)C)NC2=CC=C(C=C2)C(=O)NC | InChI=1S/C29H42N6O2.2ClH/c1-20(2)13-17-34(18-14-21(3)4)28(37)23-9-12-25-26(19-23)35(16-6-15-30)29(33-25)32-24-10-7-22(8-11-24)27(36)31-5;;/h7-12,19-21H,6,13-18,30H2,1-5H3,(H,31,36)(H,32,33);2*1H
